US07696229B2
Sulfurochloridic acid (71.0 g, 612.07 mmol) was cooled to 0° C. and 4-phenylmorpholine (20.0 g, 122.53 mmol) was added in several batches, while keeping the temperature at 0° C. The resulting solution was then stirred at 90° C. for 20 hours. The reaction mixture was then added dropwise to 200 mL of ice/salt. The resulting solution was extracted with ethyl acetate (2×200 mL) and the organic layers were combined, dried (MgSO4) and filtered. The filtrate was concentrated, and the residue was purified by column chromatography using a 20:1 ethyl acetate/petroleum ether solvent system to give 4.7 g of 4-morpholinobenzene-1-sulfonyl chloride as a yellow solid. 1H NMR (CDCl3) δ 7.9 (d, 2H), 6.9 (d, 1H), 7.5 (d, 2H), 3.87 (t, 2H), 3.4 (t, 2H).

reactant | Sulfurochloridic acid | 612.07 mmol, 71.0 g | S(O)(=O)(=O)Cl | ClHO3S
reactant | 4-phenylmorpholine | 122.53 mmol, 20.0 g | C1(=CC=CC=C1)N1CCOCC1 | C10H13NO
product | 4-morpholinobenzene-1-sulfonyl chloride | 4.7 g | O1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H12ClNO3S
